US04306097
trans-3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-5-methyl-cyclohexanone
A mixture of trans-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-5-methylcyclohexanone (175 mg, 0.417 mmole) and 175 mg of 5% palladium on carbon-50% water in methanol (8 ml) was stirred under one atmosphere of hydrogen gas until hydrogen uptake ceased. The reaction mixture was filtered through diatomaceous earth and the filtrate evaporated under reduced pressure. Crystallization of the residue in pentane gave 89 mg (64%) of the title compound.

reactant | trans-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-5-methylcyclohexanone | 0.417 mmole, 175 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@@H]1CC(C[C@H](C1)C)=O | C29H40O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 175 mg | [Pd] | Pd
solvent | methanol | 8 ml | CO | CH4O
product | trans-3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-5-methyl-cyclohexanone | 89 mg, 64% | CC(CCCCCC)(C)C1=CC(=C(C=C1)[C@@H]1CC(C[C@H](C1)C)=O)O | C22H34O2
